US05502054
Under a nitrogen atmosphere, a stirred solution of 8.7 grams (0.015 mole) of 3-(4-chlorophenyl)-3-methyl-1-iodo-1-tributylstannylbutane and 6.5 mL (0.045 mole) of 1,8-diazabicyclo 5.4.0!undec-7-ene (DBU)in 50 mL of tetrahydrofuran was heated at reflux for about 18 hours. The reaction mixture was cooled and poured into about 225 mL of water. The mixture was then made acidic with aqueous 2N hydrochloric acid and extracted with two 150 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel, using 5% methylene chloride in petroleum ether as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 5.3 grams of 3-(4-chlorophenyl)-3-methyl-1-tributylstannyl-1-butene. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(4-chlorophenyl)-3-methyl-1-iodo-1-tributylstannylbutane | 0.015 mole, 8.7 grams | ClC1=CC=C(C=C1)C(CC([Sn](CCCC)(CCCC)CCCC)I)(C)C
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | about 225 mL | O | H2O
product | 3-(4-chlorophenyl)-3-methyl-1-tributylstannyl-1-butene | 5.3 grams | ClC1=CC=C(C=C1)C(C=C[Sn](CCCC)(CCCC)CCCC)(C)C | InChI=1S/C11H12Cl.3C4H9.Sn/c1-4-11(2,3)9-5-7-10(12)8-6-9;3*1-3-4-2;/h1,4-8H,2-3H3;3*1,3-4H2,2H3;
